US08227601B2
4-(2-(4-Cyanophenylamino)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylbenzonitrile
In a sealed tube was added 4-(2-chloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylbenzonitrile (294 mg, 0.94 mmol), 4-aminobenzonitrile (455 mg, 3.77 mmol), TFE (3.1 mL) and TFA (0.58 mL, 7.52 mmol). The reaction mixture was stirred at 90° C. for 48 h. Upon completion of the reaction, the resulting mixture was cooled, diluted with water and washed with EtOAc. The combined organic layers were washed with NaHCO3, brine, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by preparative TLC, eluting with hexanes:ethyl acetate (4:1-1:2), to give the product as an off-white solid (133 mg, 40%).

reactant | 4-(2-chloro-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylbenzonitrile | 0.94 mmol, 294 mg | ClC=1N=C(C2=C(N1)C=CN2C)OC2=C(C=C(C#N)C=C2C)C | C16H13ClN4O
reactant | 4-aminobenzonitrile | 3.77 mmol, 455 mg | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | TFA | 7.52 mmol, 0.58 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
product | 4-(2-(4-Cyanophenylamino)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-4-yloxy)-3,5-dimethylbenzonitrile | 133 mg, 40% | C(#N)C1=CC=C(C=C1)NC=1N=C(C2=C(N1)C=CN2C)OC2=C(C=C(C#N)C=C2C)C | C23H18N6O
